US07342039B2
This compound was produced using similar methods as those used in Step 1, example 4, starting with 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.60 g, 1.46 mmol), N-hydroxyphthalimide (0.30 g, 1.86 mmol) and N,N-diisopropylethylamine (0.36 g, 2.88 mmol). The crude material was purified by flash chromatography through silica gel using methylene chloride to give 6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (0.50 g, 70%) as a white solid. 1H NMR (400 MHz, DMSO-d6); δ 8.01 (dd, 1H), 7.88 (d, 1H), 7.84 (s, 4H), 7.74 (s, 4H), 7.31 (d, 1H), 4.31 (t, 2H), 4.22 (t, 2H), 3.82 (s, 3H), 2.09 (m, 2H).

reactant | 6-(3-bromo-propoxy)-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 1.46 mmol, 0.60 g | COC(=O)C=1C=C(C(=CC1)OCCCBr)C1=CC=C(C=C1)C(F)(F)F | C18H16BrF3O3
reactant | N-hydroxyphthalimide | 1.86 mmol, 0.30 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N,N-diisopropylethylamine | 2.88 mmol, 0.36 g | C(C)(C)N(C(C)C)CC | C8H19N
product | 6-[3-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-propoxy]-4′-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 0.50 g, 70% | COC(=O)C=1C=C(C(=CC1)OCCCON1C(C2=CC=CC=C2C1=O)=O)C1=CC=C(C=C1)C(F)(F)F | C26H20F3NO6
